* ==========================================================================
* @part: LM339
* @family: comparators
* @source: TI
* @url: https://www.ti.com/lit/zip/SLCJ010
* @origin-file: ti/LM339/SLCJ010/lm2901.lib
* @retrieved: 2026-09-24
* @licence: condition: "The model is provided solely on an "as is" basis."; notice: "(C) Copyright 2022 Texas Instruments Incorporated. All rights reserved."
* @added-by: nav
* @pins: LM2901: IN+ IN- Vcc GND OUT
* @notes: LM339/LM2901 family (subckt LM2901)
* @patched: 20 helper subckt/model name(s) suffixed with '__LM339' so this file can be included together with other files
* The complete origin file follows (modified, see @patched).
* ==========================================================================

*source LM2901
* PSpice Model Editor - Version 17.4.0
*$
*LM2901
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: LM2901
* Date: 1/31/2023
* Model Type: All In One
* Simulator: PSPICE 
* Simulator Version: 17.4.0.p001
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SLCS006V
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web        
*
*****************************************************************************
* Model Notes:
*  Modeled parameters:
*  Supply Voltage Ranges 
*  Input Voltage Range 
*  Supply Current 
*  Input Bias Currents 
*  Typical Offset Voltage 
*  Propagation Delay 
* Error Conditions:
* If the input goes beyond the recommended input voltage range, the output will float to mid supply 
* If the supplies goes beyond the recommended supply voltage ranges, the output will float to mid supply
* The real device will NOT do this.
*
******************************************************************************
* source LM2901
.SUBCKT LM2901 IN+ IN- Vcc GND OUT 
R_RIS         N859943 VCC  1u TC=0,0 
I_IBN         IN- GND DC -3.5n  
X_U5 N859997 GND N860457 0 V+_BUFFER V-_BUFFER VCC N860405 OUT Output_Stage__LM339  
X_U4 N860391 N860397 Prop_Delay__LM339  
X_U2 IN-BUFF IN+BUFF N860457 V+_BUFFER V-_BUFFER INPUTRANGE__LM339  
C_CINNL         GND IN-  0.5p  TC=0,0 
X_U6 GND V+_BUFFER V-_BUFFER VCC Supply_Buffer__LM339  
X_U1 IN+ IN+BUFF IN- IN-BUFF Input_Buffer__LM339  
I_IBP         IN+ GND DC -3.5n  
C_CINPH         IN+ VCC  0.5p  TC=0,0 
X_U7 N859997 0 V+_BUFFER V-_BUFFER Supply_Enable__LM339  
E_E1         N860405 V-_BUFFER N860397 V-_BUFFER 2
I_IS         N859943 GND DC 275u  
C_CINPL         GND IN+  0.5p  TC=0,0 
C_CINNH         IN- VCC  0.5p  TC=0,0 
X_U3         N860177 IN-BUFF N860391 V+_BUFFER V-_BUFFER N860477 HPA_COMPHYS__LM339
V_VOS         N860177 IN+BUFF 0.37m
V_VHYST         N860477 0 0
X_DESD3          GND IN+ DESD__LM339 PARAMS: AREA=1.0
X_DESD5          GND IN- DESD__LM339 PARAMS: AREA=1.0
.ENDS
 
.SUBCKT Supply_Enable__LM339 EN POR V+_BUFFER V-_BUFFER  
V_VS_MIN_SET         N780252 0 1.99
X_U13         V+_BUFFER V-_BUFFER N780066 1V 0 Difference__LM339
X_U16         N780086 POR EN 1V 0 ORGATE__LM339 
V_VS_MAX_SET         N779976 0 36.01
V_VLOGIC         1V 0 1
X_U15         N780252 N780066 POR 1V 0 VCC_Range__LM339
X_U5         N780066 N779976 N780086 1V 0 VCC_Range__LM339
.ENDS
 
.SUBCKT Input_Buffer__LM339 IN+ IN+_BUFF IN- IN-_BUFF  
X_U1         IN+ IN- IN+_BUFF IN-_BUFF SUPPLY_BUFFER1__LM339 
.ENDS
 
.SUBCKT Supply_Buffer__LM339 GND V+_BUFFER V-_BUFFER Vcc  
X_U1         VCC GND V+_BUFFER V-_BUFFER SUPPLY_BUFFER1__LM339 
.ENDS
 
.SUBCKT INPUTRANGE__LM339 INN INP INRANGE V+_BUFFER V-_BUFFER  
V_VCMNN         N20539 V-_BUFFER -110m
X_U1         N20155 INP N20826 V+_BUFFER V-_BUFFER VINRANGE_393__LM339
X_U21         N202710 INN N20833 V+_BUFFER V-_BUFFER VINRANGE_393__LM339
X_U22         INP N20415 N20840 V+_BUFFER V-_BUFFER VINRANGE_393__LM339
X_U23         INN N20539 N20531 V+_BUFFER V-_BUFFER VINRANGE_393__LM339
V_VCMPN         N202710 V+_BUFFER -2
V_VCMNP         N20415 V-_BUFFER -110m
V_VCMPP         N20155 V+_BUFFER -2
X_U24         N20826 N20833 N20840 N20531 INRANGE V+_BUFFER V-_BUFFER 4ORGATE__LM339 
.ENDS
 
.SUBCKT Prop_Delay__LM339 VIN VOUT  
R_RS         N03175 VIN  50 TC=0,0 
T_TPD         N03175 0 VOUT 0 Z0=50 TD=1u  
R_RT         0 VOUT  50 TC=0,0 
.ENDS
 
.SUBCKT Output_Stage__LM339 EN GND IN_RANGE POR V+_BUFFER V-_BUFFER Vcc VIN VOUT  
X_SVOL    N774212 N774290 GND N850209 Output_Stage_SVOL__LM339 
X_U7         MID V+_BUFFER V-_BUFFER MID_SUPPLY__LM339
C_COUTL         GND VOUT  0.5p  TC=0,0 
X_SMID    CONTROL_MID 0 N778484 MID Output_Stage_SMID__LM339 
X_U9         CONTROL_HIZ N789513 1V 0 INVERTER__LM339
X_U3         VIN N774212 V+_BUFFER V-_BUFFER VCC N774290 DIGLEVSHIFT__LM339
C_COUTH         VOUT VCC  0.5p  TC=0,0 
X_SHIZ    CONTROL_HIZ 0 N778484 N778496 Output_Stage_SHIZ__LM339 
V_VLOGIC         1V 0 1
V_V1         VCC N774290 1
X_U10         N789513 POR CONTROL_MID 1V 0 ORGATE__LM339 
R_ROUTL         N850209 N778496  60 TC=0,0 
X_U8          POR IN_RANGE EN EN CONTROL_HIZ 1V 0 4ORGATE__LM339
L_L1         N778484 VOUT  1n  
.ENDS

.subckt Output_Stage_SVOL__LM339 1 2 3 4  
S_SVOL         3 4 1 2 _SVOL
RS_SVOL         1 2 1G
.MODEL         _SVOL VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends Output_Stage_SVOL__LM339

.subckt Output_Stage_SMID__LM339 1 2 3 4  
S_SMID         3 4 1 2 _SMID
RS_SMID         1 2 1G
.MODEL         _SMID VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends Output_Stage_SMID__LM339

.subckt Output_Stage_SHIZ__LM339 1 2 3 4  
S_SHIZ         3 4 1 2 _SHIZ
RS_SHIZ         1 2 1G
.MODEL         _SHIZ VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends Output_Stage_SHIZ__LM339


.SUBCKT HPA_COMPHYS__LM339 INP INN OUT_OUT VDD VSS VHYS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EVH VH 0 VALUE = { ( V(VHYS)/2) }
EINNNEW INNNEW 0 VALUE = { IF( ( V(OUT_OUT) < V(VMID) ),(V(INN) + (V(VH))),( V(INN) - V(VH) ) ) }
EOUT OUT 0 VALUE = { IF( ( V(INP) > V(INNNEW) ), V(VDD), V(VSS) ) }
R1 OUT OUT_OUT 1
C1 OUT_OUT 0 1e-12
.ENDS
*$
.SUBCKT DIGLEVSHIFT__LM339 1 2 VDD_OLD VSS_OLD VDD_NEW VSS_NEW
*E1 3 0 VALUE = { IF( V(1) < (V(VDD_OLD)+V(VSS_OLD))/2, V(VSS_NEW), V(VDD_NEW) ) }
E1 3 0 VALUE = { IF( V(1) < 1, V(VSS_NEW), V(VDD_NEW) ) }
R1 3 2 1
*C1 2 0 1e-12
.ENDS
*$
.SUBCKT INVERTER__LM339 1 2 VDD VSS
E2 2 0 VALUE = { IF( V(1)> (V(VDD)+V(VSS))/2, V(VSS), V(VDD) ) }
C1 1 0 1e-12
.ENDS
*$
.SUBCKT MID_SUPPLY__LM339 OUT VDD VSS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = {V(VMID)}
.ENDS
*$
.SUBCKT ORGATE__LM339 1 2 3 VDD VSS
E1 4 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(VSS), V(VDD) ) }
R1 4 3 1
C1 3 0 1e-12
.ENDS
*$
.SUBCKT Difference__LM339 1 2 OUT VDD VSS 
EOUT OUT1 0 VALUE = { V(1)- V(2)}
R1 OUT1 OUT 1
*C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT SUPPLY_BUFFER1__LM339 1 2 VDD_NEW VSS_NEW 
EVDD_NEW VDD_NEW 0 VALUE = {V(1)}
EVSS_NEW VSS_NEW 0 VALUE = {V(2)}
.ENDS
*$
.SUBCKT VCC_Range__LM339 1 2 OUT VDD VSS 
EOUT OUT2 0 VALUE = { IF( ( V(1) >= V(2) ), V(VDD), V(VSS) ) }
R1 OUT OUT2 1
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT VINRANGE_393__LM339 1 2 OUT VDD VSS 
EOUT OUT2 0 VALUE = { IF( ( V(1) >= V(2) ), V(VSS), V(VDD) ) }
R1 OUT2 OUT 1
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT 4ORGATE__LM339 1 2 3 4 5 VDD VSS
E1 6 0 VALUE = { IF( ((V(1)> (V(VDD)+V(VSS))/2 ) | (V(2)> (V(VDD)+V(VSS))/2 ) | (V(3)> (V(VDD)+V(VSS))/2 ) | (V(4)> (V(VDD)+V(VSS))/2 )), V(VDD), V(VSS) ) }
R1 5 6 1
.ENDS
*$
.subckt DESD__LM339 AN CAT 
+ params:
+ AREA=1.0
+ IS=10f
+ RS=5
+ BV=100
D_DESD AN CAT model22 {area} 
.model model22 d
+ is={IS}
+ rs={RS}
+ bv={BV}
.ends DESD__LM339
